US07189851B2
B. (Z)-1-(2,4-difluorobenzyl)-2-nitroethenylamine
The mixture of 1-(2,4-difluorophenyl)-3-nitroacetone (9.4 g, 43.7 mmol) and ammonium acetate (16.8 g, 219 mmol) in 250 ml benzene was refluxed with Dean-Stark setup for 5 hours. The reaction mixture was then partitioned between ether and water. The organic portion was washed with brine and dried over sodium sulfate. Removing the solvent afforded 8.5 g light brown solid. 1H-NMR (400 MHz, CD3OD) δ 7.20 (m, 1H), 6.84 (m, 3H), 3.65 (s, 2H) ppm. ESI-MS m/z 215 (M+H)+.

reactant | 1-(2,4-difluorophenyl)-3-nitroacetone | 43.7 mmol, 9.4 g | FC1=C(C=CC(=C1)F)CC(=O)C[N+](=O)[O-] | C9H7F2NO3
reactant | ammonium acetate | 219 mmol, 16.8 g | C(C)(=O)[O-].[NH4+]
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | (Z)-1-(2,4-difluorobenzyl)-2-nitroethenylamine | FC1=C(C/C(=C/[N+](=O)[O-])/N)C=CC(=C1)F | C9H8F2N2O2
